US07781431B2
Step 2: 6-cyclohexyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid
A solution (0.1 M) of methyl 6-cyclohexyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in THF/MeOH (1:1) was treated with aqueous NaOH (1 N solution, 5 eq.). The mixture was stirred at RT for 21 h then concentrated and acidified to pH 4-5 with aqueous HCl (1 N) and extracted with AcOEt. The combined organic phase was dried and concentrated to give a residue that was triturated with MeCN/Et2O (20:1) and filtered to afford the title compound (93%) as a solid.

reactant | methyl 6-cyclohexyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.1 M | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)COC)C=C(S2)C(=O)OC | C22H25NO3S
reactant | NaOH | 1 N, 5 eq. | [OH-].[Na+]
solvent | THF MeOH | C1CCOC1.CO
product | 6-cyclohexyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 93% | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)COC)C=C(S2)C(=O)O | C21H23NO3S
